US04278683
2.0 g of 2-aminomethyl-2-hydroxymethyl-3,4,5-trihydroxypiperidine are dissolved in 20 ml of methanol/water (1:1), 1.45 ml of triethylamine are added and the mixture is cooled to -10° C. After adding 1.635 g of benzoyl chloride, the mixture is stirred at -10° C. for 30 minutes and then at room temperature for 20 hours. The solution is evaporated in vacuo and the residue is taken up in 40 ml of methanol/water (2:1). This solution is discharged onto a column 40 cm long and 3 cm wide which is filled with a cation exchanger in the H+ form. The column is first washed with 1 l of a methanol/water mixture (2:1) and is then eluted with 0.1% strength ammonia in methanol/water (2:1). The individual fractions are examined by thin layer chromatography to determine their content of the required compound. The fractions containing the desired product are collected and evaporated. The residue is dissolved in a little methanol and the solution is left to stand, whereupon crystallisation soon starts. The mixture is diluted with a little isopropanol and the crystals are filtered off and washed with isopropanol and diethyl ether. 0.8 g of 2-benzoylamino-2-hydroxymethyl-3,4,5-trihydroxypiperidine of melting point 154° to 156° C. is obtained.

reactant | 2-aminomethyl-2-hydroxymethyl-3,4,5-trihydroxypiperidine | 2.0 g | NCC1(NCC(C(C1O)O)O)CO | C7H16N2O4
reactant | triethylamine | 1.45 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.635 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methanol water | 20 ml | CO.O
product | 2-benzoylamino-2-hydroxymethyl-3,4,5-trihydroxypiperidine | 0.8 g | C(C1=CC=CC=C1)(=O)NC1(NCC(C(C1O)O)O)CO | C13H18N2O5
